Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Erythromycin Base / Codeine / Paroxetine
 
Attending: ___
 
Chief Complaint:
word-finding difficulties, blank stare
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per report, ___, pt's son came home from work and found mother
w/ mild word-finding difficulties. This worsened as the evening
progressed. He reported that she could not remember her own
maiden name or son's middle name.
Brought to ___. CT showed no acute findings. ECG showed
intermittent atrial fibrillation. Labwork unremarkable.
Transferred to ___ for further evaluation.
No episodes of confusion or word-finding difficulty noted in
past.

RoS: As per HPI; o/w negative.

 
Past Medical History:
breast cancer status post resection and radiation therapy
hypertension
hyperlipidemia
anxiety 
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
CV: Adequately-perfused throughout.
Pulm: Nonlabored breathing.
Extr: 1+ edema in b/l LEs.
Neur:
MS: Oriented to self and place. Oriented to year. Able to say
multi-word phrases. Hesitant speech pattern. Difficulty
initiating. During examination, seemed to perseverate on a few
topics.
CN: PERRL. EOMI. Symmetric face; tongue midline.
Motor: Normal tone and bulk throughout. ___ strength in b/l
deltoids, biceps and IPs. ___ triceps, ___ EHLs. Able to lift
both legs and hold up for 3 seconds.
Reflex: 3+ biceps, BRs. 3+ patellae; (+) cross abd. Several 
beats
of clonus in b/l ankles.
Coordin: No dysmetria.
Gait: Deferred.

DISCHARGE PHYSICAL EXAM
=======================
Mental status: 
Patient awake, alert. Oriented to person, place, date. Able to
say ___ backwards.

Cranial nerves: 
PERRL. EOMI, no nystagmus. No ptosis. Facial sensation normal.
Face symmetric. Hearing intact. No dysarthria. Shoulders sit
symmetrically. Tongue protrudes to midline.    

Sensory/Motor:
Intact to light touch throughout
RUE ___ (baseline, brachial plexus injury)
LUE ___
RLE LLE 4+/5

Reflexes, coordination and gait deferred
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:40AM BLOOD WBC-5.6 RBC-4.05 Hgb-12.2 Hct-37.5 MCV-93 
MCH-30.1 MCHC-32.5 RDW-13.2 RDWSD-44.5 Plt ___
___ 06:40AM BLOOD Neuts-67.1 ___ Monos-7.9 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-3.73 AbsLymp-1.25 AbsMono-0.44 
AbsEos-0.09 AbsBaso-0.03
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-93 UreaN-11 Creat-0.5 Na-146 
K-3.1* Cl-115* HCO3-19* AnGap-12
___ 12:21PM BLOOD Glucose-121* UreaN-12 Creat-0.7 Na-141 
K-5.4 Cl-106 HCO3-22 AnGap-13
___ 06:40AM BLOOD ALT-7 AST-13 AlkPhos-44 TotBili-0.5
___ 06:40AM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD Albumin-3.0* Calcium-6.9* Phos-2.4* 
Mg-1.3* Cholest-134
___ 12:21PM BLOOD Calcium-9.1 Phos-2.7 Mg-2.5
___ 06:40AM BLOOD %HbA1c-5.7 eAG-117
___ 06:40AM BLOOD Triglyc-56 HDL-44 CHOL/HD-3.0 LDLcalc-79
___ 06:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:50AM BLOOD Lactate-1.1

IMAGING
=======
CTA HEAD W&W/O C & RECONS Study Date of ___ 
IMPRESSION:
1. No evidence for an acute intracranial abnormality.  MRI would 
be more 
sensitive for an acute infarction, if clinically warranted. 
2. Approximately 10% bilateral proximal internal carotid 
stenosis by NASCET criteria.  Tortuous cervical internal carotid 
arteries. 
3. Moderate stenosis at the origin of the dominant left 
vertebral artery. 
4. Calcified plaque within bilateral carotid siphons and V4 
segment of the 
left vertebral artery without evidence for flow-limiting 
stenosis.  No 
evidence for flow-limiting stenosis in the major intracranial 
arteries. 
5. Paranasal sinus disease.

MR HEAD W & W/O CONTRAST Study Date of ___  
IMPRESSION:
1. No acute infarction, hemorrhage, edema or mass. 
2. Supratentorial white matter changes are nonspecific but 
likely sequela of microvascular ischemic disease. 

EEG Study Date of ___ 
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study due to 
initially mild background slowing in the 7 Hz range, indicative 
of a mild 
encephalopathy. This improves through the course of the 
recording and by the end, a normal ___ Hz alpha frequency 
posterior dominant rhythm is noted. Excessive beta fast activity 
may be due to a medication effect (e.g. benzodiazepines). There 
are no epileptiform discharges or seizures.

TTE ___
IMPRESSION: Normal biventricular wall thicknesses, cavity sizes, 
and regional/global systolic function. Mild pulmonary 
hypertension. No definite structural cardiac source of embolism 
identified. No prior TTE available for comparison.

DISCHARGE LABS
==============
___:35AM BLOOD WBC-6.9 RBC-4.13 Hgb-12.7 Hct-40.2 MCV-97 
MCH-30.8 MCHC-31.6* RDW-13.7 RDWSD-49.5* Plt ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-100 UreaN-23* Creat-0.8 Na-144 
K-5.1 Cl-105 HCO3-27 AnGap-12
___ 05:35AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is an ___ year old left handed woman with history 
of breast cancer status post resection and radiation therapy, 
hypertension, hyperlipidemia, and anxiety whom presented for 
evaluation of 3 day history of word finding difficulty and two 
events where she had blank staring and became unresponsive. She 
was ruled out for seizure or acute stroke, course complicated by 
AVNRT.

#Anxiety related word finding difficulty: 
Developed word finding difficulty, transient blank staring. 
Admitted to the Neurologic ICU from ___, not principally 
because of neurologic dysfunction but because of difficult to 
control sinus tachycardia as below. Presentation initially 
concerning for both stroke and seizure. Pertinently, has history 
of anxiety and had not been able to take her clonazepam for 3 
days because of inability to fill prescription, this is most 
likely cause of her symptoms. MRI brain without evidence of 
acute or subacute stroke and CVEEG reading normal, without 
slowing or abnormal discharges. Although TIA remains on the 
differential, it is less likely. Risk factors notable for HgA1C 
5.7, LDL 79. TTE with EF 55-100%, no source of embolism 
identified. Discontinued home simvastatin given interaction with 
diltiazem and age. Continued home clonazepam. Intiated aspirin. 
Neurologic exam normal at time of discharge. 

#AVNRT:
Course complicated by several long runs of SVT during admission. 
Initially treated with metoprolol PO and IV, not effective. 
Responded well to diltiazem 10 mg IV and therefore she was 
started on diltiazem 30 mg Q6H, uptitrated to 180 mg daily 
extended release. Continued to have a few runs with HR up to 
160s max 30 min, remained asymptomatic in these episodes. Will 
follow-up with cardiology as an outpatient.  

TRANSITIONAL ISSUES:
====================
[] continue to monitor for symptomatic tachycardia, adjust 
diltiazem PRN, consider ablation if pharmacologic interventions 
unsuccessful
[] per discussion with HCP, opted to discontinue tramadol to 
avoid sedative effect, patient was without any pain during 
admission off this medication
[] discontinued home statin, tramadol, atenolol
[] initiated aspirin, diltiazem 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. TraMADol 50 mg PO DAILY 
4. ClonazePAM 0.5 mg PO BID PRN anxiety 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Diltiazem Extended-Release 180 mg PO DAILY  
3.  ClonazePAM 0.5 mg PO BID PRN anxiety  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
benzodiazepine withdrawal 
AVNRT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___. 

You came to the hospital because you developed blank staring and 
difficulty with speech. We evaluated you for seizures and stroke 
and found that you did not have either of these. We believe you 
presentation may be related to not taking your clonazepam for 
several days. While you were in the hospital, your heart rate 
was very fast and we started you on a new medication called 
"diltiazem" to better control your fast heart, this will replace 
your "atenolol".

Please continue to take your medications as prescribed and 
follow-up with your doctors as ___.

We wish you all the best,
Your ___ care team
 
Followup Instructions:
___